US04547451
Preparation of carbomethoxymethyl acrylate:
Into a five-liter, three-necked, round-bottom flash (equipped with a mechanical stirrer, a thermometer and a one-liter dropping funnel topped with a drying tube) were placed 527.9 mls. of acrylic acid, 662.7 mls. of methyl bromoacetate and 1750 mls. of ethyl acetate. The resulting solution was cooled to about 15° C. and 1073.2 mls. of triethylamine were added over a period of about one hour. An exotherm was noted and reaction temperature was maintained between 15° and 25° C. with an ice/salt cooling bath. Upon completion of the triethylamine addition, the cooling bath was removed and the reaction mixture was stirred at room temperature (25° to 30° C.) overnight. The resulting thick slurry was poured into 1750 mls. of distilled water and the organic layer was separated. The aqueous layer was extracted with ethyl acetate (two times, 500 mls. each) and the combined organic portions were washed successively with 500 mls. of 0.5N hydrochloric acid, 500 mls. of saturated aqueous sodium bicarbonate and, then, with 500 mls. of saturated aqueous sodium chloride. The organic solution (about 3.5 to 3.75 liters) was then dried (magnesium sulfate) and evaporated in vacuo (water aspirator) at ≤30° C. to provide a very pale-yellow product. The product was purified by addition of one gram of 2,6-di-tert-butyl-p-cresol as a free radical inhibitor and vacuum distilling through a distillation column. The purified product exhibited a boiling point of 50° C. (1.2 mm.) to 56° C. (1.9 mm.).

reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | carbomethoxymethyl acrylate | C(C=C)(=O)OCC(=O)OC | C6H8O4
